US04963575
By proceeding in a similar manner but replacing the 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethyl- phenyl)-4-trifluoromethylthiopyrazole in the above example by 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphinylpyrazole, 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-pyrrol-1-yl-4-trifluoromethylsulphinylpyrazole was obtained as a white solid, m.p. 165.4°-166.8° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethyl- phenyl)-4-trifluoromethylthiopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphinylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-pyrrol-1-yl-4-trifluoromethylsulphinylpyrazole | C(#N)C1=NN(C(=C1S(=O)C(F)(F)F)N1C=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H6Cl2F6N4OS
